US05134147
3-[1-(Benzocyclobuten-1-ylmethyl)-4-piperidyl]-1,2-benzisoxazole was prepared from benzocyclobutene-1-carboxylic acid and 3-piperid-4-yl-1,2-benzisoxazole according to the process described in Example 19, stages A and B.

reactant | benzocyclobutene-1-carboxylic acid | C1(=CC2=C1C=CC=C2)C(=O)O | C9H6O2
reactant | 3-piperid-4-yl-1,2-benzisoxazole | N1CCC(CC1)C1=NOC2=C1C=CC=C2 | C12H14N2O
product | 3-[1-(Benzocyclobuten-1-ylmethyl)-4-piperidyl]-1,2-benzisoxazole | C1(=CC2=C1C=CC=C2)CN2CCC(CC2)C2=NOC1=C2C=CC=C1 | C21H20N2O
